US04105789
N-(3-methoxycarbonyl-2-benzylpropanoyl)-L-phenylalanine
3-Methoxycarbonyl-2-D-benzylpropanoic acid (4.4 g.) is dissolved in dioxane (40 ml.). N-hydroxysuccinimide (2.3 g.) and dicyclohexylcarbodiimide (4.12 g.) are added and the mixture is stirred at room temperature overnight. The precipitate is filtered and the filtrate is concentrated to dryness and the residue is crystallized from ethyl acetate to yield 3.67 g. of 3-methoxycarbonyl-2-D-benzylpropanoic acid N-hydroxysuccinimide ester, m.p. 111°-113°. This ester (4.8 g.) dissolved in pyridine (24 ml.) is added to a suspension of L-phenylalanine (4.95 g.) in a solution of sodium bicarbonate (3.75 g.) in water (24 ml.). After 8 hours the reaction mixture is diluted with water and extracted with ethyl acetate. The aqueous phase is acidified and extracted with ethyl acetate. This ethyl acetate is concentrated to dryness and the product is crystallized from ether to yield 2.1 g. of N-(3-methoxycarbonyl-2-D-benzylpropanoyl)-L-phenylalanine, m.p. 100°-104°.

reactant | N-hydroxysuccinimide | 2.3 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 4.12 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | L-phenylalanine | 4.95 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | sodium bicarbonate | 3.75 g | C([O-])(O)=O.[Na+]
reactant | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | pyridine | 24 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 24 ml | O | H2O
product | N-(3-methoxycarbonyl-2-benzylpropanoyl)-L-phenylalanine | COC(=O)CC(C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)CC1=CC=CC=C1 | C21H23NO5
